US07514452B2
Preparation of 4-(2,3,5,6-tetramethylbenzyloxy)bromobenzene
In acetone (50 ml), a mixture of 4-bromophenol (7.8 g), 2,3,5,6-tetramethylbenzyl chloride (6.3 g) and potassium carbonate (6.5 g) was heated at reflux for 16 hours. The reaction solution was filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate, and successively washed with 3% aqueous sodium hydroxide solution, water and saturated brine. The solvent was evaporated under reduced pressure, thereby giving 8.7 g of the desired compound.

reactant | 4-bromophenol | 7.8 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 2,3,5,6-tetramethylbenzyl chloride | 6.3 g | CC1=C(CCl)C(=C(C=C1C)C)C | C11H15Cl
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(2,3,5,6-tetramethylbenzyloxy)bromobenzene | 8.7 g | CC1=C(COC2=CC=C(C=C2)Br)C(=C(C=C1C)C)C | C17H19BrO
